US07446225B2
d) Methyl 4-(4-amino-3-pentafluorosulfanylphenoxy)-5-methanesulfonyl-2-methyl-benzoate
3.80 g of methyl 5-methanesulfonyl-4-(4-nitro-3-pentafluorosulfanylphenoxy)-2-methyl-benzoate were dissolved in 30 ml of HOAc and 30 ml of MeOH, 200 mg of Pd/C (10%) were added, and hydrogenation was carried out under a pressure of 6 bar of hydrogen for 24 h. Since reaction was still incomplete, a further 300 mg of Pd/C (10%), 30 ml of HOAc and 30 ml of MeOH was added, and hydrogenation was continued under a pressure of 6 bar of hydrogen for 24 h. The catalyst was then filtered off and the solvents were removed in vacuo. 3.4 g of a pale gray solid were obtained, mp 175° C. (with decomposition).

reactant | methyl 5-methanesulfonyl-4-(4-nitro-3-pentafluorosulfanylphenoxy)-2-methyl-benzoate | 3.80 g | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)OC1=CC(=C(C=C1)[N+](=O)[O-])S(F)(F)(F)(F)F | C16H14F5NO7S2
reactant | hydrogen | [H][H] | H2
solvent | HOAc | 30 ml | CC(=O)O | C2H4O2
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | MeOH | 30 ml | CO | CH4O
solvent | HOAc | 30 ml | CC(=O)O | C2H4O2
product | Methyl 4-(4-amino-3-pentafluorosulfanylphenoxy)-5-methanesulfonyl-2-methyl-benzoate | 3.4 g | NC1=C(C=C(OC2=CC(=C(C(=O)OC)C=C2S(=O)(=O)C)C)C=C1)S(F)(F)(F)(F)F | C16H16F5NO5S2
